US09227962B2
To a solution of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one (195 mg, 0.75 mmol) in EtOH (3 ml) was added N-(2-(diethylamino)ethyl)-5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxamide (200 mg, 0.76 mmol) and piperidine (82 μL, 0.83 mmol). The mixture was stirred at 80° C. for 1 hour. After cooled down to room temperature, the reaction mixture was concentrated, filtrated, and washed with EtOH to give (Z)—N-(2-(diethylamino)ethyl)-2,4-dimethyl-5-((2-oxo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-3-ylidene)methyl)-1H-pyrrole-3-carboxamide (218 mg) as yellow solid.

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | 0.75 mmol, 195 mg | CC1(OB(OC1(C)C)C=1C=C2CC(NC2=CC1)=O)C | C14H18BNO3
reactant | N-(2-(diethylamino)ethyl)-5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxamide | 0.76 mmol, 200 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 0.83 mmol, 82 μL | N1CCCCC1 | C5H11N
solvent | EtOH | 3 ml | CCO | C2H6O
product | (Z)—N-(2-(diethylamino)ethyl)-2,4-dimethyl-5-((2-oxo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-3-ylidene)methyl)-1H-pyrrole-3-carboxamide | 218 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)=O)C)CC | C28H39BN4O4
